US07342014B2
Methyl 5-chloro-4-fluoroindole-2-carboxylate
Ethanol (100 ml) was added to sodium hydride (content: 60%, 4.7 g) at 0° C. under an argon atmosphere, and the mixture was stirred for 10 minutes. After 2-nitropropane (11 ml) was added to the reaction mixture to stir the mixture for 10 minutes, 1-(bromomethyl)-3-chloro-2-fluorobenzene (10 g) was added to stir the resultant mixture at room temperature for 3.5 hours. Precipitate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was partitioned in diethyl ether and water, and an organic layer was successively washed with a 1N aqueous solution of sodium hydroxide, water and saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatagraphy on silica gel (ethyl acetate:hexane=3:7) to obtain crude 3-chloro-2-fluorobenzaldehyde (5.5 g) as a pale yellow oil. Methanol (20 ml) was added to sodium hydride (content: 60%, 1.6 g) at 0° C. under an argon atmosphere, and the mixture was stirred for 10 minutes. The reaction mixture was cooled to −20° C., and the crude 3-chloro-2-fluorobenzaldehyde (5.5 g) and a solution of methyl 2-azidoacetate (5.0 g) in methanol (10 ml) were added within 20 minutes. The temperature of the reaction mixture was raised to 0° C., and after the mixture was stirred for 2.5 hours, water (40 ml) was added thereto. The reaction mixture was concentrated under reduced pressure, the residue was extracted with a mixed solvent of methylene chloride and ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by column chromatagraphy on silica gel (toluene:hexane=3:17) to obtain crude methyl 2-azido-3-[(3-chloro-2-fluoro)phenyl]acrylate (2.6 g). This product was dissolved in xylene (50 ml), and the solution was stirred at 130° C. to 140° C. for 3 hours. The reaction mixture was concentrated, and the resultant residue was purified by column chromatography on silica gel (methylene chloride) and then crystallized from diethyl ether-hexane to obtain the title compound (440 mg).

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 3-chloro-2-fluorobenzaldehyde | 5.5 g | ClC=1C(=C(C=O)C=CC1)F | C7H4ClFO
reactant | methyl 2-azidoacetate | 5.0 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
reactant | water | 40 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | Methanol | 20 ml | CO | CH4O
product | Methyl 5-chloro-4-fluoroindole-2-carboxylate | 440 mg | ClC=1C(=C2C=C(NC2=CC1)C(=O)OC)F | C10H7ClFNO2
